US08426402B2
4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylic acid
Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylate (5.0 g, 19.59 mmol) in 120 ml of 1:1 THF/H2O was added 8 g of NaOH in 30 ml of water. The mixture was stirred overnight, concentrated, diluted with water, extracted with EtAc/Hexane (1:1). The aqueous solution was adjusted to pH 4.0 with 20% H3PO4 and extracted with EtAc (4×60 ml). The organic solutions were combined, dried over MgSO4, filtered, evaporated and crystallized with ethanol/EtAc/Hexane to afford 3.85 g (81%) of the title product. 1H NMR (DMSO) 9.32 (s, 1H), 7.29 (s, 1H), 3.57 (s, 3H), 1.42 (s, 9H); 13C NMR 172.45, 159.78, 136.93, 135.44, 132.85, 79.50, 35.57, 28.07; MS m/z− 240.8 (M−H).

reactant | Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylate | 19.59 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)OC | C11H17N3O4
reactant | NaOH | 8 g | [OH-].[Na+]
solvent | THF H2O | 120 ml | C1CCOC1.O
solvent | water | 30 ml | O | H2O
product | 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylic acid | 3.85 g, 81% | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)O | C10H15N3O4
